US08471005B2
[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-trifluoromethyl-3H-benzimidazol-5-yl)-amine
Following the synthetic and purification procedures described in Example 1293d, 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine (60 mg, 0.2 mmol) was coupled to 2-trifluoromethyl-3H-benzimidazol-5-ylamine (72 mg, 0.36 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 32 mg (30%) of tan powder; LC/MS: 426 (M+H); HPLC: 97% pure, RT=3.06 min; 1H NMR: (DMSO, δ) 9.64 (s, 1H), 9.02 (s, 1H), 8.97 (d, J=2.0, 1H), 8.56 (dd, J=8.8, 2.5, 1H), 8.12 (s, 1H), 7.66 (m, 2H), 7.22 (d, J=4.9, 1H), 7.01 (d, J=8.8, 1H), 6.99 (d, J=4.9, 1H), 3.94 (s, 3H)-benzimidazole NH presumably underwent rapid exchange with residual water.

reactant | 2-methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine | 0.2 mmol, 60 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C13H12N4O2S
reactant | 2-trifluoromethyl-3H-benzimidazol-5-ylamine | 0.36 mmol, 72 mg | FC(C=1NC2=C(N1)C=CC(=C2)N)(F)F | C8H6F3N3
product | [7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-trifluoromethyl-3H-benzimidazol-5-yl)-amine | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=C(N1)C(F)(F)F)C=C2 | C20H14F3N7O
